* PEX produced on Sat Aug  1 02:07:36 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from inverter_pex.ext - technology: ihp-sg13cmos5l

.subckt inverter_pex VDD vin vout VSS
X0 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X1 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X2 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X3 vout vin VSS VSS.t11 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X4 vout vin VSS.t1 VSS.t0 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X5 VSS.t24 VSS VSS.t1 VSS.t22 sg13_lv_nmos ad=0.34p pd=2.68u as=0 ps=0 w=1u l=1u
X6 VSS vin vout VSS.t16 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X7 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X8 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X9 vout vin VSS VSS.t15 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X10 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X11 VSS vin vout VSS.t6 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X12 VSS.t21 vin vout VSS.t20 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X13 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X14 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X15 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X16 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X17 vout vin VSS VSS.t19 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X18 VSS vin vout VSS.t10 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X19 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X20 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X21 VDD VDD VDD VDD sg13_lv_pmos ad=2.04p pd=12.68u as=0.14199n ps=0.28418m w=6u l=1u
X22 vout vin VSS VSS.t5 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X23 VSS vin vout VSS.t14 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X24 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X25 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X26 VSS vin vout VSS.t4 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X27 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X28 VSS vin vout VSS.t2 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X29 vout vin VSS VSS.t9 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X30 VSS vin vout VSS.t18 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X31 vout vin VSS VSS.t3 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X32 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X33 vout vin VSS VSS.t17 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X34 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X35 VSS vin vout VSS.t8 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X36 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X37 VDD VDD VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=0 ps=0 w=6u l=1u
X38 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X39 vout vin VSS VSS.t7 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X40 vout vin VSS VSS.t13 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X41 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X42 VSS vin vout VSS.t12 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X43 VSS.t21 VSS VSS.t26 VSS.t25 sg13_lv_nmos ad=0.19p pd=1.38u as=0 ps=0 w=1u l=1u
R0 VSS.t13 VSS 51.0604
R1 VSS VSS.t22 7.82674
R2 VSS.t19 VSS 25.8412
R3 VSS.t17 VSS 39.0515
R4 VSS.t14 VSS 49.8596
R5 VSS.t11 VSS 49.8602
R6 VSS.t10 VSS 49.8593
R7 VSS.t9 VSS 51.0605
R8 VSS.t4 VSS 39.0514
R9 VSS.t3 VSS 33.0469
R10 VSS.t2 VSS 25.8412
R11 VSS.t0 VSS 17.4347
R12 VSS.t21 VSS 5.66087
R13 VSS VSS.t26 5.73517
R14 VSS.t24 VSS 5.66244
R15 VSS VSS.t1 5.66522
R16 VSS.t15 VSS 47.4578
R17 VSS.t25 VSS 7.82755
R18 VSS.t5 VSS 43.855
R19 VSS VSS.t6 47.4577
R20 VSS VSS.t8 51.0618
R21 VSS VSS.t16 43.8554
R22 VSS VSS.t18 33.0467
R23 VSS.t20 VSS 17.4339
R24 VSS.t12 VSS 51.0605
R25 VSS.t7 VSS 49.8598
C0 vout vin 18.6541f
C1 VDD vin 29.702f
C2 vout VDD 19.3894f
C3 vout VSS 13.72425f
.ends

